US06906074B2
To a solution of tert-butyl (2S,3S)-3-(3,5-bis(trifluoromethyl)benzyloxymethyl)-5-oxo-2-phenylpiperizine-1-carboxylate (6.6 g, 12.4 mmol) and iodomethane (1.0 mL, 16.1 mmol) in THF (50 mL) was added NaH (0.55 g, 13.6 mmol) at 0° C. After stirring overnight, the reaction was stopped with water (50 mL). The product was extracted with ether, and purified by washing with 0.5 mol/L KHSO4 solution, saturated NaHCO3 solution and saturated brine in order. The organic layer was dried over sodium sulfate anhydride. Sodium sulfate was filtered off and the solvent was removed by evaporation from the filtrate under reduced pressure to give tert-Butyl (2S,3S)-3-(3,5-bis(trifluoromethyl)benzyloxymethyl)-4-methyl-5-oxo-2-phenylpiperizine-1-carboxylate 6.5 g (96%) was obtained.

reactant | tert-butyl (2S,3S)-3-(3,5-bis(trifluoromethyl)benzyloxymethyl)-5-oxo-2-phenylpiperizine-1-carboxylate | 12.4 mmol, 6.6 g | FC(C=1C=C(COC[C@@H]2[C@@H](N(CC(N2)=O)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C25H26F6N2O4
reactant | iodomethane | 16.1 mmol, 1.0 mL | IC | CH3I
reactant | NaH | 13.6 mmol, 0.55 g | [H-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl (2S,3S)-3-(3,5-bis(trifluoromethyl)benzyloxymethyl)-4-methyl-5-oxo-2-phenylpiperizine-1-carboxylate | 6.5 g, 96% | FC(C=1C=C(COC[C@@H]2[C@@H](N(CC(N2C)=O)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C26H28F6N2O4
